US08536168B2
2-Chloro-pyrimidine-5-carbonitrile (Compound 13)
(Prepared according to: Organic Synthesis, Vol 4, p. 182.) In a 3-necked, round-bottom flask is placed 5.4 mL of concentrated HCl (65 mmol). The solution is cooled to 0° C. and 2-amino-5-cyanopyrimidine (515 mg, 4.28 mmol) is added portion wise with stirring until a homogeneous solution is obtained. The solution is then cooled to −15° C. A 100 mL addition funnel is fitted to the flask and a cold solution of NaNO2 (592 mg, 8.6 mmol) in 5 ml of water is then added dropwise with stirring over period of 20 min. (The temperature is kept at −15 to −10° C.) The solution is stirred an additional hour and the temperature is allowed to rise to −5. At this point, the mixture is carefully neutralized to about pH 7 with a 30% solution of NaOH, taking care that the temperature does not rise above 0° C. The solution is extracted with EtOAc (3×20 ml), dried over MgSO4, filtered and evaporated to give a yellow solid (159 mg, 21.3% yield).

reactant | HCl | 65 mmol, 5.4 mL | Cl | ClH
reactant | 2-amino-5-cyanopyrimidine | 4.28 mmol, 515 mg | NC1=NC=C(C=N1)C#N | C5H4N4
reactant | NaNO2 | 8.6 mmol, 592 mg | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2-Chloro-pyrimidine-5-carbonitrile | 159 mg, 21.3% yield | ClC1=NC=C(C=N1)C#N | C5H2ClN3
